US05387593
A solution of 4-cyanopyridine in THF was added to the Grignard reagent prepared from 3-bromoanisole (37.4 g, 200 mmole) and magnesium (4.8 g, 200 mmole) in THF (400 ml) at -78° C. The solution was allowed to warm to 25° C. and quenched with ammonium chloride solution. The organic layer was separated and washed with water and 3N hydrochloric acid. The acid washes were stirred for 0.5 hr and neutralized with 50% sodium hydroxide. The basic mixture was extracted with ether. The extracts were dried and concentrated in vacuo. The crude material was crystallized from hexane to give 4-(3-methoxybenzoyl)pyridine (27 g, 63.3%).

reactant | 4-cyanopyridine | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | 3-bromoanisole | 200 mmole, 37.4 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | magnesium | 200 mmole, 4.8 g | [Mg] | Mg
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 400 ml | C1CCOC1 | C4H8O
product | 4-(3-methoxybenzoyl)pyridine | 27 g, 63.3% | COC=1C=C(C(=O)C2=CC=NC=C2)C=CC1 | C13H11NO2
